*****************************************************************
* NXP PH2520U
*
* Polarity N-Channel
* Ratings 20V/2.10E-03OHMS/25A
*
* Date Created Tue Aug  7 07:48:08 2007
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PH2520U DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 2.65888308335967e-10
RLG GATE 1 0.668249640468152
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 400000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00116212285971454 TC=0.00605985482423065,5.16099079674115e-06
RBD 9 4 0.00293619093139624 TC=0.00605985482423065,5.16099079674115e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 500000000000
CGS 2 6 1.07969714285714e-08
RG 1 2 2.09986503660826

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	3205
+ -5	3195
+ -4	3190
+ -2	3200
+ -1	3001
+ -0.5	2665
+ -0.2	2456
+ -0.1	2387
+ 0	2303.5
+ 0.10	2209.00
+ 0.20	2110.00
+ 0.50	1827.00
+ 1.00	1436.00
+ 2.00	1132.00
+ 5.00	819.70
+ 10.00	631.60
+ 20.00	485.10
+ 30.00	415.00



.MODEL MINT NMOS(Vto=0.99 Kp=7.2862e+02 Nfs=310e+09 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=22.40 Ibv=2.50E-04 Rs=1E-6 Is=1.13578429568555e-09
+ N=1 M=0.53 VJ=0.81 Fc=0.5 Cjo=1.753e-09 Tt=5.8e-08)

.ENDS
